US09193719B2
To a suspension of semicarbazide hydrochloride (5.00 g, 44.8 mmol) in DCM (100 mL) was added triethylamine (10.00 g, 99 mmol) and the mixture was stirred at −10° C. for 30 min. Cyclopropane carbonylchloride (5.00 g, 47.8 mmol) was added at the same temp and the mixture was stirred to RT over night. The solvent from the reaction mixture was completely removed and the residue stirred in MeCN (200 mL) for 1 h. The solids were collected by filtration, washed and dried. The solid was transferred to a RB flask and treated with sodium hydroxide (7.00 g, 175 mmol) and water (20 mL). The resulting reaction mixture was heated at 100° C. for 2 hours. The reaction mixture was cooled and acidified with conc. HCl. The solids were collected by filtration, washed and dried to provide 3-cyclopropyl-1H-1,2,4-triazol-5(4H)-one (1.82 g, 30.4% yield) as white solid. 1H NMR (400 MHz, DMSO-d6): δ11.03 (br s, 2H), 1.67 (m, 1H), 0.82 (m, 2H), 0.73 (m, 2H); MS (ESI) m/z: 126.1 (M+H+).

reactant | semicarbazide hydrochloride | 44.8 mmol, 5.00 g | Cl.NNC(=O)N
reactant | triethylamine | 99 mmol, 10.00 g | C(C)N(CC)CC | C6H15N
reactant | Cyclopropane carbonylchloride | 47.8 mmol, 5.00 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | sodium hydroxide | 175 mmol, 7.00 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | 3-cyclopropyl-1H-1,2,4-triazol-5(4H)-one | 1.82 g, 30.4% yield | C1(CC1)C1=NNC(N1)=O | C5H7N3O
